US05217973
127.7 g of ethyl 3-oxohexanoate are dissolved in 700 ml of tetrahydrofuran. 174.5 g of 4-nitrobenzyl bromide and 35 g of lithium chloride are added and the mixture is stirred at room temperature. 286 ml of diisopropylethylamine are then introduced dropwise, which causes a slight exothermic effect. The mixture is then stirred for 3 hours at room temperature and thereafter for 10 hours under reflux. The solvents are evaporated off under vacuum and the residue is taken up with water and then extracted with chloroform. The organic phase is separated after settling has taken place and then washed with dilute hydrochloric acid solution, dried over magnesium sulphate and evaporated under vacuum. The oily residue obtained is taken up with isopropyl ether and the crystals formed are filtered off. The mother liquors are concentrated under vacuum and the residue is heated to 130° C. at 20 mm of mercury in order to remove the residual starting materials. 174 g of ethyl 2-(4-nitrobenzyl)-3-oxohexanoate are thereby obtained in the form of an oil, which is used without further purification for the next step.

reactant | ethyl 3-oxohexanoate | 127.7 g | O=C(CC(=O)OCC)CCC | C8H14O3
reactant | 4-nitrobenzyl bromide | 174.5 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | lithium chloride | 35 g | [Cl-].[Li+]
reactant | diisopropylethylamine | 286 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | ethyl 2-(4-nitrobenzyl)-3-oxohexanoate | 174 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)OCC)C(CCC)=O)C=C1 | C15H19NO5
